US04079076
To 1-acetoxy-4-nitro-but-2-ene (4 g.) in 40 cc of methylenechloride and 40 cc of pyridine was added under ice cooling 4.4 cc of PCl3. The reaction was worked up after 1 hour stirring at room temperature. The crude product was purified by distillation and column chromatography. γ-Acetoxycrotononitrile was obtained as a colorless liquid.

reactant | 1-acetoxy-4-nitro-but-2-ene | 4 g | C(C)(=O)OCC=CC[N+](=O)[O-] | C6H9NO4
reactant | PCl3 | P(Cl)(Cl)Cl | Cl3P
solvent | methylenechloride | 40 cc | C(Cl)Cl | CH2Cl2
solvent | pyridine | 40 cc | N1=CC=CC=C1 | C5H5N
product | γ-Acetoxycrotononitrile | C(C)(=O)OC/C=C/C#N | C6H7NO2
